US06642389B2
[rac]-2-Ethoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-2,3-dihydro-benzofuran-7-yl}-propionic acid
A suspension of 100 mg of 2Z-ethoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzofuran-7-yl}-acrylic acid and 25 mg of Pd/C (10%) in 2 ml of MeOH and 2 ml of CH2Cl2 was hydrogenated at 22° C./1bar overnight. The suspension was filtered and the filtrate was again hydrogenated with 25 mg of fresh catalyst overnight. The suspension was filtered, the filtrate evaporated and the residue purified by prep. HPLC (RP-18, CH3CN/H2O, gradient) to give the title compound (56 mg, 56%) as a pale yellow solid.

reactant | 2Z-ethoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzofuran-7-yl}-acrylic acid | 100 mg | C(C)O\C(\C(=O)O)=C/C1=CC=C(C=2C=COC21)OCCC=2N=C(OC2C)C2=CC=CC=C2 | C25H23NO6
solvent | MeOH | 2 ml | CO | CH4O
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 25 mg | [Pd] | Pd
product | [rac]-2-Ethoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-2,3-dihydro-benzofuran-7-yl}-propionic acid | 56 mg, 56% | C(C)OC(C(=O)O)CC1=CC=C(C=2CCOC21)OCCC=2N=C(OC2C)C2=CC=CC=C2 | C25H27NO6
